US08729102B2
A) tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]pyridin-3-yl}oxy)-1-methylethyl]carbamate
Diisopropyl azodicarboxylate (1.9 M solution in toluene, 9.52 mL) was added to a mixture of methyl 5-hydroxypyridine-2-carboxylate (5.00 g), tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (8.58 g), triphenylphosphine (12.9 g), and THF (50 mL) at 0° C. dropwise. The mixture was stirred at room temperature for 3 days. The mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give methyl 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylate (810 mg) as a mixture with impurities. A mixture of methyl 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylate (810 mg, a mixture with impurities), THF (8 mL), methanol (8 mL), and 1 M sodium hydroxide (8 mL) was stirred at room temperature for 4 hr. The mixture was neutralized with 1 M hydrochloric acid at 0° C., and brine was added. The mixture was extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylic acid (765 mg) as a mixture with impurities. A mixture of 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylic acid (765 mg, a mixture with impurities), 4-aminobenzene-1,3-diol hydrochloride (417 mg), HATU (982 mg), N,N-diisopropylethylamine (0.902 ml), and DMF (7 mL) was stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (442 mg) as a pale yellow oil.

reactant | 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H](COC=1C=CC(=NC1)C(=O)O)C | C14H20N2O5
reactant | 4-aminobenzene-1,3-diol hydrochloride | 417 mg | Cl.NC1=C(C=C(C=C1)O)O
reactant | HATU | 982 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.902 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Water | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | 442 mg | OC1=C(C=CC(=C1)O)NC(=O)C1=CC=C(C=N1)OC[C@H](C)NC(OC(C)(C)C)=O | C20H25N3O6
